US09447054B2
27 mg (0.0703 mmol) of 5-nitro-2-(4′-trifluoromethyl-[1,1′-biphenyl]-4-yl)benzo[d]oxazole was dissolved in methanol, and then, 10% Pd/C was added thereto to allow a catalytic reaction therebetween for 4 hours under hydrogen gas atmosphere. The reaction solution was diluted with ethyl acetate. Then, the diluted reaction solution was filtered with a celite pad, and then, was concentrated under reduced pressure. Afterwards, the filtered reaction solution was purified by using a silica gel column chromatography (ethyl acetate/normal-hexane at a volume ratio of 1:1) to obtain 13.6 mg (54.6%) of 2-(4′-trifluoromethyl-[1,1′-biphenyl]-4-yl)benzo[d]oxazole-5-amine (Derivative #8).

reactant | 5-nitro-2-(4′-trifluoromethyl-[1,1′-biphenyl]-4-yl)benzo[d]oxazole | 0.0703 mmol, 27 mg | [N+](=O)([O-])C=1C=CC2=C(N=C(O2)C2=CC=C(C=C2)C2=CC=C(C=C2)C(F)(F)F)C1 | C20H11F3N2O3
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 2-(4′-trifluoromethyl-[1,1′-biphenyl]-4-yl)benzo[d]oxazole-5-amine | 13.6 mg, 54.6% | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)N)(F)F | C20H13F3N2O
